US04410354
Embodiment XXXI--2-Methyl-1,6-dioxaspiro[4.4]nonane-2-carboxaldehyde
To a cooled and stirred solution of 8.80 g of 85% m-chloroperbenzoic acid in 120 ml of methylene chloride was added 6.16 g of 8-methyl-1,6-dioxaspiro[4.5]dec-7-ene in 20 ml of methylene chloride. The exothermic reaction was kept below 15° C. After 15 minutes, the mixture was poured into 600 ml of saturated potassium carbonate. The resulting organic layer was then washed with aqueous base, dried and distilled to yield 4.37 g of the desired product as a colorless liquid, b.p. 65°-70° C. (1 torr.).

reactant | m-chloroperbenzoic acid | 8.80 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 8-methyl-1,6-dioxaspiro[4.5]dec-7-ene | 6.16 g | CC1=COC2(CCCO2)CC1 | C9H14O2
reactant | potassium carbonate | 600 ml | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-Methyl-1,6-dioxaspiro[4.4]nonane-2-carboxaldehyde | 4.37 g | CC1(OC2(CC1)OCCC2)C=O | C9H14O3
